US08669368B2
1-(1-(1H-imidazole-1-carbonyl)piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one
To a round bottom flask was added, 1,1′-carbonyldiimidazole (8.59 g, 51.4 mmol), diisopropylethylamine (12.6 mL, 72.2 mmol) and tetrahydrofuran (100 mL). This mixture was warmed to 40° C. and aged for 10 min, after which 1-(piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one dihydrochloride (10 g, 34.3 mmol) was added. The slurry was aged at 40° C. for 3 h, and then upon reaction completion, the solvent was swapped to acetonitrile which afforded an off white solid (9.19 g, 85.9%). LCMS: [M+H]=313; 1H NMR (400 MHz, d6-DMSO) δ 11.58 (1H, s), 8.09 (1H, s), 7.97 (1H, d, J=8.0 Hz), 7.73 (1H, d, J=4.0 Hz), 7.53 (1H, s), 7.05 (1H, s), 7.00 (1H, dd, J=4.0, 8.0 Hz), 4.52, (1H, dd, J=8.0, 12.0 Hz), 4.05 (2H, bd, J=8.0 Hz), 3.31 (2H, m), 2.34 (2H, m), 1.82 (2H, bd, J=12.0 Hz); 13C NMR (100 MHz, d6-DMSO) δ 153.0, 150.4, 143.4, 139.8, 137.2, 128.9, 123.0, 118.7, 116.4, 115.2, 49.3, 45.1, 28.5; mp 226° C.

reactant | 1,1′-carbonyldiimidazole | 51.4 mmol, 8.59 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | diisopropylethylamine | 72.2 mmol, 12.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | 1-(piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one dihydrochloride | 34.3 mmol, 10 g | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(1-(1H-imidazole-1-carbonyl)piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one | 9.19 g, 85.9% | N1(C=NC=C1)C(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C15H16N6O2
